US05804601
1) O-Acetyl-6-(4-methoxyphenyl)-6-(3-methyl-1,4-naphthoquinon-2-yl)hexanohydroxamic acid (Compound 7-1)
6-(4-Methoxyphenyl)-6-(3-methyl-1,4-naphthoquinon-2-yl)hexanohydroxamic acid (215 mg) and pyridine (125 mg) were dissolved in THF (1 ml) followed by addition of acetic anhydride (56 mg), and the mixture was stirred at room temperature for 2 hours. This reaction mixture was diluted with ether, washed serially with 1N HCl, saturated aqueous NaCl solution, and saturated aqueous NaHCO3 solution, dried, and concentrated under reduced pressure. The residue was applied to a silica gel column and developed with hexane-ethyl acetate (1:1) to provide the title compound (150 mg).

reactant | 6-(4-Methoxyphenyl)-6-(3-methyl-1,4-naphthoquinon-2-yl)hexanohydroxamic acid | 215 mg | COC1=CC=C(C=C1)C(CCCCC(=O)NO)C=1C(C2=CC=CC=C2C(C1C)=O)=O | C24H25NO5
reactant | pyridine | 125 mg | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 56 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | O-Acetyl-6-(4-methoxyphenyl)-6-(3-methyl-1,4-naphthoquinon-2-yl)hexanohydroxamic acid | 150 mg | C(C)(=O)ONC(CCCCC(C=1C(C2=CC=CC=C2C(C1C)=O)=O)C1=CC=C(C=C1)OC)=O | C26H27NO6
